US07790883B2
(b) 7-amino-5-[[(2,3-difluorophenyl)methyl]thio][1,3]oxathiolo[5,4-d]pyrimidin-2-one
To a stirred suspension of 6-amino-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinol (9.58 g) in tetrahydrofuran (96 ml) was added chlorocarbonylsulfenyl chloride (4.89 g) over 7 minutes, followed by tetrahydrofuran (2 ml). The reaction mixture was stirred for 40 minutes and the resulting precipitate collected by filtration, washing twice with tetrahydrofuran (19 ml), to afford the title compound as a pale yellow solid (11.31 g).

reactant | 6-amino-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinol | 9.58 g | NC1=CC(=NC(=N1)SCC1=C(C(=CC=C1)F)F)O | C11H9F2N3OS
reactant | chlorocarbonylsulfenyl chloride | 4.89 g | ClC(=O)SCl | CCl2OS
solvent | tetrahydrofuran | 96 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 7-amino-5-[[(2,3-difluorophenyl)methyl]thio][1,3]oxathiolo[5,4-d]pyrimidin-2-one | 11.31 g | NC=1C2=C(N=C(N1)SCC1=C(C(=CC=C1)F)F)OC(S2)=O | C12H7F2N3O2S2
